US09302991B2
<Step-2>:methyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate
Thionyl chloride (4.7 mL, 63.9 mmol) is added dropwise a solution of 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid including 6-chloro-2-(2,2,2-trifluoroethoxy)nicotinic acid and 2,6-bis(2,2,2-trifluoroethoxy)nicotinic acid (4.08 g, Step-1) in methanol (50 mL) and refluxed with stirring for 3 hours. After removal of solvent, the residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (20:1) to give 2.90 g (67% yield) of the title compound including methyl 6-chloro-2-(2,2,2-trifluoroethoxy)nicotinate as a white solid. This material is used for the next reaction (Step-3) without further purification.

reactant | Thionyl chloride | 63.9 mmol, 4.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid | ClC1=C(C(=O)O)C=CC(=N1)OCC(F)(F)F | C8H5ClF3NO3
reactant | 6-chloro-2-(2,2,2-trifluoroethoxy)nicotinic acid | ClC1=NC(=C(C(=O)O)C=C1)OCC(F)(F)F | C8H5ClF3NO3
reactant | 2,6-bis(2,2,2-trifluoroethoxy)nicotinic acid | 4.08 g | FC(COC1=C(C(=O)O)C=CC(=N1)OCC(F)(F)F)(F)F | C10H7F6NO4
solvent | methanol | 50 mL | CO | CH4O
product | methyl 2-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 2.90 g, 67% yield | ClC1=C(C(=O)OC)C=CC(=N1)OCC(F)(F)F | C9H7ClF3NO3
